US05055458
c) 9-(1-t-Butyldimethylsilyloxy-3-diethoxyphosphorylmethoxyprop-2-oxy)adenine
A solution of 9-(1-t-butyldimethylsilyloxy-3-diethoxyphosphorylmethoxyprop-2-oxy)-6-chloropurine (270mg, 0.53 mmol) in ethanolic ammonia (10 ml) was heated in a sealed: metal bomb at 120° C. for 2.5 hours before cooling for 16 hours. The solvent was evaporated, and the residue chromatographed on silica eluting with ethyl acetate-methanol (10:1-5:1)affording 9-(1-t-butyldimethylsilyloxy-3-diethoxyphosphorylmethoxyprop-2-oxy)adenine (182mg, 70%) as a clear gum; νmax (film) 3320, 1600, 1470, 1250, 1110, 1030, and 970 cm-1 ; δH (CDCl3) 0.07(6H, s, (CH3)2Si), 0.86(9H, s, (CH3)3C), 1.28(6H, t, J7.2 Hz, 2×CH2CH3), 3.83(2H, d, J8.2 Hz, CH2P), 3.90(4H, m, CH2OSi+CH2OCH2P), 4.11(4H, m, 2×CH2CH3), 4.51(1H, m, CHON); 5.59(2H, br.s, D2O exchangeable, NH2), 7.99(1H, s, H-2/H-8); 8.29(1H, s, H-2/H-8), m/z (NH3C.I.), 490 (MH+, 70%);

reactant | 9-(1-t-butyldimethylsilyloxy-3-diethoxyphosphorylmethoxyprop-2-oxy)-6-chloropurine | 0.53 mmol, 270mg | [Si](C)(C)(C(C)(C)C)OCC(COCP(=O)(OCC)OCC)ON1C2=NC=NC(=C2N=C1)Cl | C19H34ClN4O6PSi
reactant | ammonia | 10 ml | N | H3N
product | 9-(1-t-Butyldimethylsilyloxy-3-diethoxyphosphorylmethoxyprop-2-oxy)adenine | [Si](C)(C)(C(C)(C)C)OCC(COCP(=O)(OCC)OCC)ON1C2=NC=NC(=C2N=C1)N | C19H36N5O6PSi
